US07939528B2
1-(4-Fluorophenyl)ethanone (1.79 g, 12.9 mmol), 4-amino-3-nitrophenol (2 g, 12.9 mmol) and Cs2CO3 (4.65 g, 14.3 mmol) were stirred in 50 mL of dimethylformamide at 80 degrees Centigrade for 24 hours. The solids were filtered away. The filtrate was diluted with ethyl acetate and washed with water and brine three times each. The aqueous layers were back extracted twice with ethyl acetate. The organic layers were combined, dried over MgSO4 and concentrated onto basic alumina. The crude product was purified by silica gel column chromatography (hexanes to ethyl acetate gradient) to give 1-{4-[(4-amino-3-nitrophenyl)oxy]phenyl}ethanone. (M+1) 272.9, 2.42 min (LC/MS method B)

reactant | 1-(4-Fluorophenyl)ethanone | 12.9 mmol, 1.79 g | FC1=CC=C(C=C1)C(C)=O | C8H7FO
reactant | 4-amino-3-nitrophenol | 12.9 mmol, 2 g | NC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H6N2O3
reactant | Cs2CO3 | 14.3 mmol, 4.65 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 1-{4-[(4-amino-3-nitrophenyl)oxy]phenyl}ethanone | NC1=C(C=C(C=C1)OC1=CC=C(C=C1)C(C)=O)[N+](=O)[O-] | C14H12N2O4
